US03983129
A mixture of 20 g of 3-methoxy-4-cyano-5-phenyl-isothiazole [prepared by the method of U.S. Pat. No. 3,476,765] and 200 ml of a solution of 25 parts by weight of hydrobromic acid in 75 parts by weight of acetic acid was heated at 80°C with stirring for 1 hour and the resulting suspension was evaporated to dryness under reduced pressure. The residue was empasted with ethanol and the mixture was vacuum filtered to obtain 16 g of 3-hydroxy-4-cyano-5-phenyl-isothiazole in the form of white crystals melting at 234°C.

reactant | 3-methoxy-4-cyano-5-phenyl-isothiazole | 20 g | COC1=NSC(=C1C#N)C1=CC=CC=C1 | C11H8N2OS
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-hydroxy-4-cyano-5-phenyl-isothiazole | 16 g | OC1=NSC(=C1C#N)C1=CC=CC=C1 | C10H6N2OS
